US09290451B2
b) 6-(Isobutylsulfonyl)picolinic acid
A suspension of 6-(isobutylsulfonyl)picolinonitrile (126 mg, 562 μmol) and powdered sodium hydroxide (89.9 mg, 2.25 mmol) in water (15 mL) was heated to 90° C. for 24 h, poured into ice water/0.1 N aqueous HCl solution (1:1) and extracted 3 times with EtOAc. The organic layers were washed with ice water/brine (1:1), dried over Na2SO4 and concentrated in vacuo to give the title compound (116 mg, 85%) as white solid which was sufficiently pure to be used in the next reaction step. MS (EI): m/e=241.9 [M−H]−.

reactant | 6-(isobutylsulfonyl)picolinonitrile | 562 μmol, 126 mg | C(C(C)C)S(=O)(=O)C1=CC=CC(=N1)C#N | C10H12N2O2S
reactant | sodium hydroxide | 2.25 mmol, 89.9 mg | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
product | 6-(Isobutylsulfonyl)picolinic acid | 116 mg, 85% | C(C(C)C)S(=O)(=O)C1=CC=CC(=N1)C(=O)O | C10H13NO4S
